US07968542B2
5-(4-Isopropylpiperazine-1-carbonyl)thiophene-2-carboxylic acid {1-[5-(3,4-dichlorophenyl)-4-hydroxythiophen-3-yl]ethylidene}hydrazide
5-(4-Isopropylpiperazine-1-carbonyl)thiophene-2-carboxylic acid {1-[5-(3,4-dichlorophenyl)-4-hydroxythiophen-3-yl]ethylidene}hydrazide hydrochloride (14 mg, 0.025 mmol) was suspended in methanol (2.7 mL), and 0.1 M potassium hydroxide in methanol (0.24 mL) and methanol (5.4 mL) were added. The suspension was heated at 50° C. and concentrated to dryness under reduced pressure to give the desired product (yield 100%).

reactant | 5-(4-Isopropylpiperazine-1-carbonyl)thiophene-2-carboxylic acid {1-[5-(3,4-dichlorophenyl)-4-hydroxythiophen-3-yl]ethylidene}hydrazide hydrochloride | 0.025 mmol, 14 mg | Cl.ClC=1C=C(C=CC1Cl)C1=C(C(=CS1)C(C)=NNC(=O)C=1SC(=CC1)C(=O)N1CCN(CC1)C(C)C)O
reactant | potassium hydroxide | 0.1 M | [OH-].[K+]
solvent | methanol | 2.7 mL | CO | CH4O
solvent | methanol | 0.24 mL | CO | CH4O
solvent | methanol | 5.4 mL | CO | CH4O
product | 5-(4-Isopropylpiperazine-1-carbonyl)thiophene-2-carboxylic acid {1-[5-(3,4-dichlorophenyl)-4-hydroxythiophen-3-yl]ethylidene}hydrazide | yield 100% | ClC=1C=C(C=CC1Cl)C1=C(C(=CS1)C(C)=NNC(=O)C=1SC(=CC1)C(=O)N1CCN(CC1)C(C)C)O | C25H26Cl2N4O3S2
